US03966945
2-(Chloromethyl)pyridine hydrochloride (16.3 g., 0.1 mole) is dissolved in 100 ml. of methanol. Freshly prepared sodium methoxide (5 g., 0.22 mole of sodium dissolved in 150 ml. of methanol) is added dropwise. The resulting mixture is heated at reflux for 18 hours, then filtered. The filtrate is concentrated. Water and ether are added, the aqueous phase is extracted with ether and the combined ethereal phases are washed with water and saturated aqueous sodium chloride, then dried over magnesium sulfate, concentrated and distilled to give 2-(methoxymethyl)pyridine.

reactant | 2-(Chloromethyl)pyridine hydrochloride | 0.1 mole, 16.3 g | Cl.ClCC1=NC=CC=C1
reactant | sodium methoxide | 0.22 mole, 150 ml, 5 g | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 2-(methoxymethyl)pyridine | COCC1=NC=CC=C1 | C7H9NO
